### PR TITLE
[Merged by Bors] - feat(Topology/InfiniteSum): tprod_one_{add/sub}_ordered

### PR DESCRIPTION
**Pull request by wwylele**
This extends the existing `Finset.prod_one_sub_ordered` to infinite sum/product, and also adds the more natural `add` version.

Together with some previous PRs about infinite sum/prod and powerseries, this is part of my effort of upstreaming useful stuff from https://github.com/wwylele/PentagonalNumberTheorem. It starts getting into niche lemma, so suggestions such that not wanting this in mathlib, or it should be stated in a different form, are all welcomed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/Ring.lean [hunk 1]
```diff
@@ -285,4 +285,43 @@ theorem tprod_one_add [T2Space α] (h : Summable (∏ i ∈ ·, f i)) :
...
   HasProd.tprod_eq <| hasProd_one_add_of_hasSum_prod h.hasSum
 
+section Ordered
+variable [LinearOrder ι] [LocallyFiniteOrderBot ι] [T2Space α]
+
+/-- The infinite version of `Finset.prod_one_add_ordered`. -/
+theorem tprod_one_add_ordererd [ContinuousAdd α]
+    (hsum : Summable fun i ↦ f i * ∏ j ∈ Iio i, (1 + f j))
+    (hprod : Multipliable (1 + f ·)) :
+    ∏' i, (1 + f i) = 1 + ∑' i, f i * ∏ j ∈ Iio i, (1 + f j) := by
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/InfiniteSum/Ring.lean]: Recently there was a huge topological summation/product refactor, where we now add a filter to the inputs of every summartion/product.

Since this is about the ordered product, I would assume that we're concerned about conditional convergence (i.e. limit of partial products using `Iic`/`Iio`), so maybe we can use that? (It's called `SummationFilter.conditional`.)

And if you use that, then maybe you can look at the code above you and start with the corresponding analogue of `hasProd_one_add_of_hasSum_prod` above, but using the conditional filter, and then you should only require the `hsum` assumption and not `hprod`?

I tried to write some code myself and [this](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/LocallyFiniteOrderBot.20to.20LocallyFiniteOrder.20and.20OrderBot/with/558750891) was the result.

**Review by kckennylau — CHANGES_REQUESTED** [review]

File: Mathlib/Topology/Algebra/InfiniteSum/Ring.lean [hunk 2]
```diff
@@ -285,4 +285,43 @@ theorem tprod_one_add [T2Space α] (h : Summable (∏ i ∈ ·, f i)) :
     ∏' i, (1 + f i) = ∑' s, ∏ i ∈ s, f i :=
   HasProd.tprod_eq <| hasProd_one_add_of_hasSum_prod h.hasSum
 
+section Ordered
+variable [LinearOrder ι] [LocallyFiniteOrderBot ι] [T2Space α]
+
+/-- The infinite version of `Finset.prod_one_add_ordered`. -/
+theorem tprod_one_add_ordererd [ContinuousAdd α]
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/InfiniteSum/Ring.lean]:
```suggestion
theorem tprod_one_add_ordered [ContinuousAdd α]
```

File: Mathlib/Topology/Algebra/InfiniteSum/Ring.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Topology/Algebra/InfiniteSum/Ring.lean]: For my own usage, I am concerned about absolute convergence, but I can look into how I can generalize this to other summation filters

File: Mathlib/Topology/Algebra/InfiniteSum/Ring.lean [hunk 3]
```diff
@@ -285,4 +285,43 @@ theorem tprod_one_add [T2Space α] (h : Summable (∏ i ∈ ·, f i)) :
...
+/-- The infinite version of `Finset.prod_one_sub_ordered`. -/
+theorem tprod_one_sub_ordered [CommRing α] [IsTopologicalAddGroup α]
+    (hsum : Summable fun i ↦ f i * ∏ j ∈ Iio i, (1 - f j))
+    (hprod : Multipliable (1 - f ·)) :
+    ∏' i, (1 - f i) = 1 - ∑' i, f i * ∏ j ∈ Iio i, (1 - f j) := by
+  simp_rw [sub_eq_add_neg] at hsum hprod ⊢
+  obtain hsum' := hsum.neg
+  simp_rw [← neg_mul] at hsum'
+  simp_rw [← tsum_neg, ← neg_mul]
+  exact tprod_one_add_ordererd hsum' hprod
```
Comment (wwylele) [inline Mathlib/Topology/Algebra/InfiniteSum/Ring.lean]:
```suggestion
  exact tprod_one_add_ordered hsum' hprod
```

File: Mathlib/Topology/Algebra/InfiniteSum/Ring.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Topology/Algebra/InfiniteSum/Ring.lean]: Sorry, it took me a while to get back to this, but after trying for a while, I couldn't generalize this to more summation filters. I suspect this isn't correct for general (NeBot, LeAtTop) filters. 

This is also very different from `hasProd_one_add_of_hasSum_prod` (see how the summation here has a prod inside!),. The summability can't translate.

I am honestly not very motivated to do the generalization. Perhaps, do you have a statement about general filter that you think is definitely true, so I focus on proving it without doubting its correctness?

**Comment by grunweg** [comment]
Thanks for the PR! This looks good to me, but I'd like to have another pair of eyes:
maintainer merge

**Comment by JovanGerb** [comment]
Will you also add the dual version of the theorem? I.e. with the order relation `i < j` reversed?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

Let's discuss dualizing and naming in the follow up PR.
